US07915270B2
Methyl 3-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate
Methyl 3-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzoate. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (188 mg, 0.284 mmol) and methyl 3-bromobenzoate following General Procedure A. Flash chromatography (2-10% EtOAc/hexanes) yielded the title compound as a clear oil (110 mg, 76%): 1H NMR (CDCl3, 500 MHz) δ 8.40 (m, 1H), 8.07 (d, 1H, J=8.0 Hz), 7.90 (d, 1H, J=8.0 Hz), 7.58 (t, 1H, J=7.6 Hz), 7.44 (s, 1H), 7.35-7.32 (m, 2H), 7.25-7.23 (m, 3H), 4.93 (t, 1H, J=6.0 Hz), 4.03 (s, 3H), 2.67 (t, 2H, J=7.4 Hz), 2.04-1.99 (m, 2H), 1.75-1.68 (m, 2H), 1.45-1.37 (m, 6H), 1.00 (s, 9H), 0.20 (s, 3H), 0.10 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 166.9, 165.7, 150.6, 143.1, 131.4, 129.7, 129.5, 128.9, 128.8, 128.6, 128.6, 126.1, 125.8, 123.5, 69.1, 52.7, 36.8, 36.4, 31.8, 29.6, 29.6, 26.2, 25.6, 14.1, −4.5, −4.6.

reactant | Methyl 3-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzoate | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C=1C=C(C(=O)OC)C=CC1 | C30H41NO4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.284 mmol, 188 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 3-bromobenzoate | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
product | Methyl 3-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate | 110 mg, 76% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C(=O)OC)C=CC1 | C24H25NO4
